US06972294B1
2-Ethoxy-3-{4-[3-phenyl-3-(Pyridin-2-yl)-allyloxy]-phenyl}-propionic acid ethyl ester
Reaction of 3-phenyl-3-(pyridin-2-yl)-prop-2-en-1-ol (320 mg, 1.5 mmol), tributylphosphine (0.42 mL, 1.6 mmol), 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (380 mg, 1.6 mmol) and azodicarboxylic dipiperidide (403 mg, 1.6 mmol) in an identical manner to Example 3 gave the title compound (650 mg).

reactant | 3-phenyl-3-(pyridin-2-yl)-prop-2-en-1-ol | 1.5 mmol, 320 mg | C1(=CC=CC=C1)C(=CCO)C1=NC=CC=C1 | C14H13NO
reactant | tributylphosphine | 1.6 mmol, 0.42 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.6 mmol, 380 mg | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
product | 2-Ethoxy-3-{4-[3-phenyl-3-(Pyridin-2-yl)-allyloxy]-phenyl}-propionic acid ethyl ester | 650 mg | C(C)OC(C(CC1=CC=C(C=C1)OCC=C(C1=NC=CC=C1)C1=CC=CC=C1)OCC)=O | C27H29NO4
